US07384934B2
7,8-Difluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride
Heat a solution of 2-(4,5-difluoro-2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile (0.995 g, 2.90 mmol) in ethanol (15 ml) to 60° C. Add to this a solution of tin (II) chloride (1.65 g, 8.70 mmol) in 5.0 N hydrochloric acid (15 ml). Heat the resulting mixture to reflux for 18 hours. Cool the reaction to room temperature, add 30 ml of 5.0 N hydrochloric acid and place the mixture in a freezer for 16 hours. Collect by filtration the precipitated product from the solution. Wash solid with 5.0 N hydrochloric acid to obtain 0.648 g of the title compound (1.85 mmol, 64% yield) as a yellow amorphous solid: Mass Spectrum (m/e): 314(M+1).

reactant | 2-(4,5-difluoro-2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile | 2.90 mmol, 0.995 g | FC1=CC(=C(C=C1F)NC1=C(C#N)C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C14H6F5N3O2
reactant | tin (II) chloride | 8.70 mmol, 1.65 g | [Sn](Cl)Cl
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 5.0 N, 15 ml | Cl | ClH
solvent | hydrochloric acid | 5.0 N, 30 ml | Cl | ClH
product | 7,8-Difluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 1.85 mmol, 0.648 g, 64% yield | Cl.FC1=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(F)(F)F)N)C=C1F | InChI=1S/C14H8F5N3.ClH/c15-8-4-11-12(5-9(8)16)22-13(20)7-3-6(14(17,18)19)1-2-10(7)21-11;/h1-5,21H,(H2,20,22);1H
